US04656170
A solution of 8.2 g (0.05 mol) of 4-acetamidobenzaldehyde, 7.2 g (0.055 mol) of β-methyl levulinic acid, 6.3 g (0.075 mol) of piperidine in a mixture of 125 ml of toluene and 75 ml of tetrahydrofuran is heated under relux with a Dean Stark apparatus for two hours. The solution is evaporated under vacuo and the residue is taken up with dilute aqueous K2CO3 solution. The insoluble material is extracted with ether and discarded. The pH of the solution is adjusted to 5.6 and the gummy material is extracted with ethyl acetate. The extract is washed with saturated sodium chloride solution, dried, and evaporated. The residue is crystallized from 2-propanol to give 7.1 g of 6-[4(acetylamino) phenyl]-3-methyl-4-oxo-5-hexenoic acid, mp 189°-190° C.

reactant | 4-acetamidobenzaldehyde | 0.05 mol, 8.2 g | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | β-methyl levulinic acid | 0.055 mol, 7.2 g | CC(CC(=O)O)C(=O)C | C6H10O3
reactant | piperidine | 0.075 mol, 6.3 g | N1CCCCC1 | C5H11N
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 6-[4(acetylamino) phenyl]-3-methyl-4-oxo-5-hexenoic acid | 7.1 g | C(C)(=O)NC1=CC=C(C=C1)C=CC(C(CC(=O)O)C)=O | C15H17NO4
